US05272270
rel-(S,S)-3,3',4,4'-Tetramethoxystilbene oxide
Mixture: 50.0 g 166 mmol) of 3,3',4,4'-tetramethoxystilbene, 1000 ml of dichloromethane, 1000 ml of sodium hydrogen carbonate solution, 64.0 g (185 mmol) of m-chloroperoxybenzoic acid (about 50% strength).

reactant | 3,3',4,4'-tetramethoxystilbene | COC=1C=C(C=CC1OC)C=CC1=CC(=C(C=C1)OC)OC | C18H20O4
reactant | sodium hydrogen carbonate | 1000 ml | C(O)([O-])=O.[Na+]
reactant | m-chloroperoxybenzoic acid | 185 mmol, 64.0 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | rel-(S,S)-3,3',4,4'-Tetramethoxystilbene oxide | COC=1C=C(C=CC1OC)[C@H]1[C@H](C2=CC(=C(C=C2)OC)OC)O1 | C18H20O5
